US04864028
2,4,7-Trifluoro-5-methoxy-9H-fluoren-9-one
Sodium dichromate dihydrate (2 eq, 0.26 mol, 7.9 g) was added to a solution 2,4,7-trifluoro-5-methoxy-9H-fluorene (3.3 g, 0.013 mol) in 100 mL of acetic acid and the mixture was refluxed for 5 h. The cooled reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate extract was washed with saturated aqueous sodium bicarbonate and water, dried over MgSO4, and concentrated to leave 3 g of a yellow solid which was chromatographed on silica gel using 15% ethyl acetate in hexane to provide 2.0 g (57%) of the fluorenone: mp 164°-166° C.

reactant | Sodium dichromate dihydrate | 0.26 mol, 7.9 g, 2 eq | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | 2,4,7-trifluoro-5-methoxy-9H-fluorene | 0.013 mol, 3.3 g | FC1=CC=2CC3=CC(=CC(=C3C2C(=C1)F)OC)F | C14H9F3O
reactant | water | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2,4,7-Trifluoro-5-methoxy-9H-fluoren-9-one | 3 g | FC1=CC=2C(C3=CC(=CC(=C3C2C(=C1)F)OC)F)=O | C14H7F3O2
